US04177292
0.6 ml of dimethylsulfoxide were added to 65 mg of sodium hydride in the form of a 50% oil dispersion and the mixture was held at 25° C. for 30 minutes and was then heated to 60° C. and then cooled to 25° C. 205 mg of cis 7-dimethylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol were added thereto and after standing at room temperature for 15 minutes, 0.15 ml of o-chlorofluorobenzene was added thereto. The mixture was heated at 80° C. for 30 minutes and then was cooled to 20° C. and extracted with methylene chloride. The organic phase was washed with water, dried and evaporated to dryness to obtain 370 mg of cis N,N-dimethyl-5-[2-chlorophenoxy]-6,7,8,9-tetrahydro-5H-benzocyclohepten-7-amine in the form of an orange oil.

reactant | sodium hydride | 65 mg | [H-].[Na+]
reactant | cis 7-dimethylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol | 205 mg | CN([C@H]1C[C@H](C2=C(CC1)C=CC=C2)O)C | C13H19NO
reactant | o-chlorofluorobenzene | 0.15 ml | ClC1=C(C=CC=C1)F | C6H4ClF
solvent | dimethylsulfoxide | 0.6 ml | CS(=O)C | C2H6OS
product | cis N,N-dimethyl-5-[2-chlorophenoxy]-6,7,8,9-tetrahydro-5H-benzocyclohepten-7-amine | 370 mg | CN([C@H]1C[C@H](C2=C(CC1)C=CC=C2)OC2=C(C=CC=C2)Cl)C | C19H22ClNO
